Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
heparin / morphine
 
Attending: ___
 
___ Complaint:
acutely worsening abdominal pain s/p screening colonoscopy and 
polypectomy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with h/o recurrent DVT on coumadin, 
refractory HTN ___ adrenal hyperplasia s/p b/l adrenalectomy, 
Stage V CKD undergoing renal transplant evaluation now p/w 
acutely worsening abdominal pain s/p screening colonoscopy and 
polypectomy. Patient underwent screening colonoscopy this AM as 
part of his surgical evaluation for renal transplantation. He 
underwent multiple polypectomies for several benign appearing 
sessile polyps at the appendiceal orifice, cecum, transverse and 
sigmoid colon. Shortly after procedure completion, he began 
developing aching RLQ abdominal pain that has since 
significantly worsened and has now migrated throughout his lower 
abdomen. Given concern for colonic perforation, he was 
immediately sent to the ED for imaging.

On arrival, patient was afebrile and hemodynamically stable 
though complained of significant abdominal pain, nausea and some 
SOB. His initial CXR was negative for free air and labs were 
notable for a mild leukocytosis of 12.7 and baseline Cr of 5.0. 
Colorectal Surgery has been asked to evaluate the patient for 
possible colonic perforation given concerning abdominal exam.
 
Past Medical History:
- CKD Stage V undergoing evaluation for renal transplantation 
(possible LRRT with brother as donor)
- refractory HTN ___ adrenal hyperplasia
- chronic herpes meningitis on valacyclovir
- recurrent DVT on lifelong AC
- h/o LLE compartment syndrome c/b rhabdomyolysis s/p 
fasciotomies
- pre-diabetes
- h/o nephrolithiasis

- s/p bilateral open adrenalectomy for refractory HTN 
(?pheochromocytoma), in childhood and at age ___ (___ ___
- s/p lap appendectomy ___ ___
- s/p L shoulder surgery ___
- s/p LLE fasciotomies for compartment syndrome (___)
- s/p multiple b/l knee surgeries
 
Social History:
___
Family History:
- father deceased h/o colon cancer with brain metastases
- mother deceased from COPD

 
Physical Exam:
At discharge:

P/E:
VS: VSS
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM:  normal excursion, no respiratory distress
ABD: soft, moderately distended, tenderness to palpation RLQ,
decreased from previous.
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
 
Pertinent Results:
See OMR for all lab and imaging results.
 
Brief Hospital Course:
Summary: ___ h/o DVT on AC, adrenal hyperplasia s/p b/l 
adrenalectomy, CKD awaiting renal transplant p/w acute abdominal 
pain s/p screening colonoscopy/polypectomy w/o perforation on 
imaging. Treated with abx, bowel rest, fluids for possible 
postpolypectomy electrocoagulation syndrome.

Mr. ___ presented to the ED following screening colonoscopy 
and polypectomy. A portable CXR and CT abd/pelvis were 
subsequently obtained, with no signs of perforation. The patient 
was started on IV zosyn while made NPO on IVF and bowel rest. 
Over the next two days the patient's pain subsequently decreased 
and he was started on a regular diet. He tolerated this well 
with continued observation given his ___ medical issues and 
current steroid treatment. 

By HD 3 the patient was stable and prepared for discharge. He 
was ambulating well, voiding, and his pain was greatly 
diminished. He plans on following up with GI and his 
___ clinic as he was restarted on Coumadin with a 110 
mg daily Lovenox bridge prior to discharge for his hx of 
recurrent DVTs. He has an appointment to follow up in 3 days 
time. He will also be discharged with Augmentin for antibiotic 
coverage for a seven day course. He may follow up with the 
colorectal surgery clinic if any issues arise. At this time the 
patient has expressed understanding and readiness for discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fludrocortisone Acetate 0.2 mg PO BID 
2. Hydrocortisone 20 mg PO QAM 
3. Pregabalin 100 mg PO BID 
4. Propranolol 80 mg PO BID 
5. CloNIDine 0.3 mg PO BID 
6. Warfarin 2.5 mg PO 6X/WEEK (___) 
7. Hydrocortisone 10 mg PO QHS 
8. Warfarin 5 mg PO 1X/WEEK (___) 
9. amLODIPine 10 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. ValACYclovir 500 mg PO DAILY 
12. Pantoprazole 40 mg PO Q12H 
13. Amitriptyline 10 mg PO QHS 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth Every twelve (12) hours (twice per day) Disp #*14 Tablet 
Refills:*0 
2.  Enoxaparin Sodium 110 mg SC Q24H 
Discuss bridge with PCP-take until INR therapeutic 
RX *enoxaparin 120 mg/0.8 mL ___ injection SC daily Disp #*10 
Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
Decrease in dose and frequency as pain decreases. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
4.  Amitriptyline 10 mg PO QHS  
5.  amLODIPine 10 mg PO DAILY  
6.  CloNIDine 0.3 mg PO BID  
7.  Fludrocortisone Acetate 0.2 mg PO BID  
8.  Hydrocortisone 20 mg PO QAM  
9.  Hydrocortisone 10 mg PO QHS  
10.  Multivitamins 1 TAB PO DAILY  
11.  Pantoprazole 40 mg PO Q12H  
12.  Pregabalin 100 mg PO BID  
13.  Propranolol 80 mg PO BID  
14.  ValACYclovir 500 mg PO DAILY  
15.  Warfarin 2.5 mg PO 6X/WEEK (___)  
16.  Warfarin 5 mg PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible postpolypectomy electrocoagulation syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital following a polypectomy with 
concern for potential perforation. You were scanned without 
evidence of perforation. You were given bowel rest, intravenous 
fluids, and antibiotics. Your pain has subsequently improved 
after conservative management. You are tolerating a regular 
diet, passing gas and your pain is controlled with pain 
medications by mouth.
 
If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.

Please take your antibiotics for a total of 7 days.

Please follow up with the colorectal surgery clinic if any 
issues arise. You may reach us at ___.

Please also follow up with your gastroenterologist Dr. ___ 
___ PCP regarding this visit. Please continue to monitor your 
INR as per your previous routine.

Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___